US04250177
8-chloro-10-oxo-10H-pyridazino(6,1-b)quinazoline-2-carboxylic acid.
A mixture of 5-chloroanthranilic acid (5.4 g, 31.6 mmol) and 6-chloropyridazine-3-carboxylic acid (5.0 g, 31.6 mmol) is heated at reflux in acetic acid (50 ml) for 80 hrs. The mixture is cooled and the precipitate which formes is collected to give 4.73 g of crude product, m.p. 253°-300° C. (dec.). Recrystallization of this material from pyridine gives the analytical material, m.p. 260°-262° C.

reactant | 5-chloroanthranilic acid | 31.6 mmol, 5.4 g | ClC1=CC=C(C(C(=O)O)=C1)N | C7H6ClNO2
reactant | 6-chloropyridazine-3-carboxylic acid | 31.6 mmol, 5.0 g | ClC1=CC=C(N=N1)C(=O)O | C5H3ClN2O2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 8-chloro-10-oxo-10H-pyridazino(6,1-b)quinazoline-2-carboxylic acid | 4.73 g | ClC1=CC=2C(N3C(=NC2C=C1)C=CC(=N3)C(=O)O)=O | C12H6ClN3O3
